US08895313B2
4-Acetoxy-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
A mixture of 4-acetoxy-3-nitrobenzoic acid (0.44 g, 1.95 mmol) and thionyl chloride (5 ml) was heated under reflux for 1.5 h. The reaction mixture was cooled to room temperature and excess reagent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section above using the acid chloride and 2-(4-aminophenyl)-6-methoxybenzothiazole (0.50 g, 1.95 mmol) in dry THF (25 ml) containing diisopropylethylamine (0.302 g, 2.34 mmol) to give the title compound (0.728 g, 86%) as a tan-coloured solid after work-up.

reactant | 4-acetoxy-3-nitrobenzoic acid | 1.95 mmol, 0.44 g | C(C)(=O)OC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C9H7NO6
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 1.95 mmol, 0.50 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | diisopropylethylamine | 2.34 mmol, 0.302 g | C(C)(C)N(CC)C(C)C | C8H19N
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | 4-Acetoxy-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.728 g, 86% | C(C)(=O)OC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)[N+](=O)[O-] | C23H17N3O6S
